US07989461B2
Preparation of 6-methyl-N1-(3-(trifluoromethyl)phenyl)isoquinoline-1,5-diamine
6-Methyl-5-nitro-N-(3-(trifluoromethyl)phenyl)isoquinolin-1-amine (0.28 g, 0.81 mmol) was dissolved in ethanol (20 mL) and 10% palladium on carbon (0.086 g, 0.81 mmol) was added to the solution. The reaction stirred overnight at RT under a hydrogen atmosphere. The reaction was filtered through celite and concentrated to give the title compound as a pink film (0.25 g, 98%). MS (M+H)+ 318.

reactant | 6-Methyl-5-nitro-N-(3-(trifluoromethyl)phenyl)isoquinolin-1-amine | 0.81 mmol, 0.28 g | CC=1C(=C2C=CN=C(C2=CC1)NC1=CC(=CC=C1)C(F)(F)F)[N+](=O)[O-] | C17H12F3N3O2
solvent | ethanol | 20 mL | C(C)O | C2H6O
catalyst | palladium on carbon | 0.81 mmol, 0.086 g | [Pd] | Pd
product | 6-methyl-N1-(3-(trifluoromethyl)phenyl)isoquinoline-1,5-diamine | CC1=C(C=2C=CN=C(C2C=C1)NC1=CC(=CC=C1)C(F)(F)F)N | C17H14F3N3
